US07176242B2
N-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-{[(2-methoxyethyl)(methyl)amino]methyl}-5-methylbenzamide dihydrochloride
To a stirred solution of 3-{[(2-methoxyethyl)(methyl)amino]methyl}-5-methylbenzoic acid (140 mg, 0.56 mmol) in methylene chloride (3 mL) is added HBTU (318 mg, 0.84 mmol), HOBt (114 mg, 0.84 mmol), and N,N-diisopropylethylamine (0.284 mL, 1.68 mmol), followed by (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol prepared by the method in EXAMPLE SP-272 (228 mg, 0.56 mmol). The reaction mixture is stirred for 24 h at room temperature, diluted with methylene chloride, washed with water, and saturated sodium bicarbonate, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 10% methanol/chloroform) affords the title compound as the free base. The compound is dissolved in methanol (2 mL), and to this solution is added hydrochloric acid (5 mL, 4 N dioxane, 20 mmol). The reaction mixture is stirred for 1 h at room temperature. The reaction mixture is then diluted with ethyl ether (10 mL). The precipitate that is formed is collected by filtration to provide the title compound. ESI MS m/z 554 [M+H]+.

reactant | 3-{[(2-methoxyethyl)(methyl)amino]methyl}-5-methylbenzoic acid | 0.56 mmol, 140 mg | COCCN(C)CC=1C=C(C(=O)O)C=C(C1)C | C13H19NO3
reactant | HBTU | 0.84 mmol, 318 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.84 mmol, 114 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 1.68 mmol, 0.284 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
reactant | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | N-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-{[(2-methoxyethyl)(methyl)amino]methyl}-5-methylbenzamide dihydrochloride | Cl.Cl.FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(C2=CC(=CC(=C2)C)CN(C)CCOC)=O)C=C(C1)F | InChI=1S/C32H41F2N3O3.2ClH/c1-5-23-7-6-8-24(13-23)19-35-20-31(38)30(17-25-15-28(33)18-29(34)16-25)36-32(39)27-12-22(2)11-26(14-27)21-37(3)9-10-40-4;;/h6-8,11-16,18,30-31,35,38H,5,9-10,17,19-21H2,1-4H3,(H,36,39);2*1H/t30-,31+;;/m0../s1
